US04049717
Preparation of 1,2,3,4-Tetrahydro-4-oxo-1-naphthylamine
A mixture of 41.4 g. of crude N-(1,2,3,4-tetrahydro -4-oxo-1-naphthyl)acetamide, 300 ml. of concentrated hydrochloric acid and 250 ml. of water is stirred and heated at reflux overnight. The mixture is decanted, filtered, and the cooled filtrate is extracted with 300 ml. of chloroform. The aqueous solution is evaporated to dryness in vacuo to afford 26.55 g. of the title product.

reactant | N-(1,2,3,4-tetrahydro -4-oxo-1-naphthyl)acetamide | O=C1CCC(C2=CC=CC=C12)NC(C)=O | C12H13NO2
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 1,2,3,4-Tetrahydro-4-oxo-1-naphthylamine | O=C1CCC(C2=CC=CC=C12)N | C10H11NO
